US06423699B1
A solution of 4-amino-3′-nitro-biphenyl-3-ol (0.115 g, 0.5 mmol) in dry THF (2.5 mL) was treated with a solution of 1,1′-carbonyldiimidazole (0.098 g, 0.6 mmol) in dry THF (2.5 mL). The reaction mixture was stirred at room temperature under a blanket of nitrogen for 6 hours. A precipitate formed, was collected and washed with methylene chloride (50 mL) to give 6-(3-nitro-phenyl)-3H-benzooxazol-2-one (0.095 g, 74%) as a white solid: mp 280-281° C.; 1H-NMR (DMSO-d6) δ 11.7 (s, 1H), 8.43 (t, 1H, J=1.15 Hz), 8.2-8.13 (m, 2H), 7.79-7.72 (m, 2H), 7.59 (dd, 1H, J=8.08, 2.31 Hz), 7.21 (d, 1H, J=8.08 Hz), MS (ES) m/z 255([M−H−, 100%); Anal. Calc. For C13H8N2O4: C, 60.94, H, 3.15, N, 10.93. Found: C, 59.95, H, 3.17 N, 10.77.

reactant | 4-amino-3′-nitro-biphenyl-3-ol | 0.5 mmol, 0.115 g | NC1=C(C=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-])O | C12H10N2O3
reactant | 1,1′-carbonyldiimidazole | 0.6 mmol, 0.098 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 6-(3-nitro-phenyl)-3H-benzooxazol-2-one | 0.095 g, 74% | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(NC(O2)=O)C=C1 | C13H8N2O4
